US07700808B2
4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-2-methylbenzoic acid (Compound No. 2-17 of the Present Invention)
To a solution of 4.85 g of 1-(4-bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one representing mixed geometrical isomers (isomeric ratio of 8:1) that was synthesized according to Synthetic Examples 1 and 2 and 1.36 g of sodium acetate in 20 mL of 1,2-dimethoxyethane and 20 mL of water in an autoclave, 0.25 g of 1,1′-bis(diphenylphosphino) ferrocene and 50 mg of palladium(II) acetate were added, the mixture was stirred for 5.5 hours at 110° C. in an atmosphere of carbon monoxide at 1.0 MPa. After that, the temperature was cooled to room temperature to isolate solid matter by filtration, diluted hydrochloric acid was added to extract with ethyl acetate, and then an organic layer was dehydrated and dried with saturated saline followed by anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified using silica gel column chromatography that was eluted with ethyl acetate-hexane (1:5) followed by crystallization from a mixed solvent of hexane and a small amount of ethyl acetate to obtain 2.6 g of aimed product as white solid.

reactant | 1-(4-bromo-3-methylphenyl)-3-(3,5-dichlorophenyl)-4,4,4-trifluoro-2-butene-1-one | 4.85 g | BrC1=C(C=C(C=C1)C(C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H10BrCl2F3O
reactant | sodium acetate | 1.36 g | C(C)(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 0.25 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluoro-2-butenoyl)-2-methylbenzoic acid | 2.6 g | ClC=1C=C(C=C(C1)Cl)C(=CC(=O)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H11Cl2F3O3
